US04775671
A mixture of 6.80 g (20 mmol) of 1-[[7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl]carbonyl]imidazole, 50 ml of N,N-dimethylformamide and 2.10 g (20 mmol) of methoxyacetamidoxime is stirred at 100° overnight. The solution is then evaporated and the residue is partitioned between methylene chloride and water. The organic phase is dried over magnesium sulphate and evaporated. By chromatography of the residue on silica gel while eluting with ethyl acetate and recrystallization from methylene chloride and ethyl acetate there is obtained 7-chloro-4,5-dihydro-3-(3-methoxymethyl-1,2,4-oxadiazol-5-yl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 213°-215°.

reactant | 1-[[7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl]carbonyl]imidazole | 20 mmol, 6.80 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)N1C=NC=C1)C)=O | C16H12ClN5O2
reactant | methoxyacetamidoxime | 20 mmol, 2.10 g | COCC(N)=NO | C3H8N2O2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 7-chloro-4,5-dihydro-3-(3-methoxymethyl-1,2,4-oxadiazol-5-yl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C1=NC(=NO1)COC)C)=O | C16H14ClN5O3
